data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_313084_1,[C:1]([C:2]([C:3]([H:18])([H:19])[H:20])([H:14])[H:15])([C:5]([C:4]([N:6]([H:12])[H:13])=[O:9])=[C:7]([H:16])[H:17])([O:8][H:10])[H:11]>>[C:1]([C:5]([C:4]([C:2]([C:3]([H:18])([H:19])[H:20])([H:14])[H:15])([N:6]([H:12])[H:13])[O:9][H:10])=[C:7]([H:16])[H:17])(=[O:8])[H:11],69.2182699999843
MR_389252_0,[C:1]([O:5]/[C:2](=[C:4](/[N:3]([H:11])[H:12])[H:13])[O:7][H:10])([O:6][H:9])=[O:8]>>[C:1]([C:4]([C:2](=[O:5])[O:7][H:10])([N:3]([H:11])[H:12])[H:13])([O:6][H:9])=[O:8],45.57720750003327
MR_467478_2,[C:1](=[C:3](/[C:2]([H:14])([H:15])[H:16])[C:5]([C:4](=[O:8])[H:12])([O:7][H:10])[H:13])(\[O:6][H:9])[H:11]>>[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:5](/[O:7][H:10])[H:13])([C:4](=[O:8])[H:12])([O:6][H:9])[H:11],54.32079250000143
MR_322506_1,[C:1]([C:4]([N:3](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:10])[O:6][H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[N:3]/[O:6][H:9])[O:8]/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:10])([H:11])([H:12])[H:13],48.44237250000461
MR_303294_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:5]([C:2]([H:10])([H:11])[H:12])[O:6][H:8])[O:7][H:9]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:5]([C:2]([H:10])([H:11])[H:12])[O:7][H:9])[O:6][H:8],70.876752500006
MR_619800_0,[C@@:1]([C:2]([O:7][H:9])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:4]([H:10])[H:11])[O:5][O:6][H:8]>>[C@@:1]([C:3]([H:14])([H:15])[H:16])([N:4]([H:10])[H:11])([O:5][C:2]([O:7][H:9])([H:12])[H:13])[O:6][H:8],40.66137249996032
MR_310934_1,[N:1](/[C:2]([O:6][H:9])=[N:7]/[N:4]([H:11])[H:12])([C:3]([N:5]([H:13])[H:14])=[O:8])[H:10]>>[N:1](=[C:2](/[O:6][H:9])[N:7]([C:3]([N:5]([H:13])[H:14])=[O:8])[N:4]([H:11])[H:12])\[H:10],54.20031249998459
MR_686486_1,[C:1](/[C:2](=[C:5](/[O:7][H:9])[H:13])[O:6]/[C:4](=[N:8]/[N:3]([H:10])[H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:2]1([C:5](=[O:7])[H:13])[C:4]([N:8]([N:3]([H:10])[H:11])[H:9])([H:12])[O:6]1)([H:14])([H:15])[H:16],19.76750499999312
MR_11807_0,[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([H:7])[H:8])([C:4](=[C:5]([H:13])[H:14])[H:9])[H:6]>>[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([H:7])[H:8])([C:4](=[C:5]([H:13])[H:14])[H:6])[H:9],61.49248999999678
MR_133861_0,[C:1](/[C:2]([O:5][H:7])=[N:6]/[N:3]([H:8])[H:9])([N:4]([H:10])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2]([O:5][H:7])([N:6]([N:3]([H:8])[H:9])[H:11])[N:4]1[H:10],61.10532249999338
MR_32798_0,[C:1]([C:2]([H:9])([H:10])[H:13])([C:3]([H:11])([H:12])[H:14])([O:5][C:4](=[O:6])[H:8])[H:7]>>[C:1]([C:2]([H:9])([H:10])[H:13])([C:3]([H:11])([H:12])[H:14])([O:6][C:4](=[O:5])[H:8])[H:7],45.80938250001779
MR_555722_0,[C:1](/[C:3]([C:2]([H:16])([H:17])[H:18])=[C:7](\[N:5]([H:12])[H:13])[H:15])([N:4]([H:10])[H:11])([C:6](=[O:8])[H:14])[H:9]>>[C:1](=[C:3](\[C:2]([H:16])([H:17])[H:18])[C:7]([N:5]([H:12])[H:13])([C:6](=[O:8])[H:14])[H:15])(\[N:4]([H:10])[H:11])[H:9],59.81204500001269
MR_79664_2,[C:1]([N:2]([C:3]([N:5]([H:13])[H:14])([O:7][H:8])[H:10])[H:9])([N:4]([H:11])[H:12])=[O:6]>>[C:1]([N:2]([C:3]([N:5]([H:13])[H:14])=[O:7])[H:9])([N:4]([H:11])[H:12])([O:6][H:8])[H:10],65.33404500001765
MR_504514_0,[C:1]([C:2](/[N:8]=[C:4](\[C:3]([H:17])([H:18])[H:19])[O:7][H:9])([H:15])[H:16])([N:5]([H:12])[H:13])([N:6]([H:11])[H:14])[H:10]>>[C:1]1([N:6]([H:11])[H:14])([H:10])[C:2]([H:15])([H:16])[N:8]1[C:4]([C:3]([H:17])([H:18])[H:19])([N:5]([H:12])[H:13])[O:7][H:9],53.29169250003147
MR_111658_0,[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:6](/[C:5]([N:4]([H:11])[H:12])([O:7][N:3]([H:9])[H:10])[H:13])[H:14])[H:8]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:4]([H:11])[H:12])(/[C:6](=[C:5](/[O:7][N:3]([H:9])[H:10])[H:13])[H:14])[H:8],69.18563999999535
MR_677229_1,[C:1](=[C:2]([H:7])[H:8])([O:3][N:4][O:5])[H:6]>>[C@:1]1([N:4][O:5])([H:6])[C:2]([H:7])([H:8])[O:3]1,62.58308500000766
MR_536858_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:2]([H:11])([H:12])[C:9]([C:6]([H:22])([H:23])[H:24])=[C:8]([C:5]([H:19])([H:20])[H:21])[N:7]1[H:10]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:2]([H:11])([H:12])[C@@:9]1([C:6]([H:22])([H:23])[H:24])/[C:8]([C:5]([H:19])([H:20])[H:21])=[N:7]/[H:10],64.17128749999279
MR_211040_1,[C@:1]([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:10])[H:11])=[O:8])([O:6][C:2]([H:12])([H:13])[H:14])[O:7][H:9]>>[C@@:1]([C:3]([H:15])([H:16])[H:17])([C:4]([O:6][C:2]([H:12])([H:13])[H:14])=[O:8])([N:5]([H:10])[H:11])[O:7][H:9],59.643875000009245
MR_655779_1,[C:1]([N:3]([N:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:7]/[H:10])[H:9])/[C:6](=[N:8]/[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:3]([N:4](/[C:6](=[N:8]/[H:11])[H:12])[H:9])/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:7]/[H:10])([H:13])([H:14])[H:15],57.77643500001574
MR_528779_1,[C:1]12([C:3]([H:14])([H:15])[H:16])[C:6]([H:13])([C:5]([C:2]([O:9][H:10])([H:11])[H:12])([C:4]([H:17])([H:18])[H:19])[O:7]1)[O:8]2>>[C:1]([C:3]([H:14])([H:15])[H:16])(=[O:7])[O:8]/[C:6](=[C:5](\[C:2]([O:9][H:10])([H:11])[H:12])[C:4]([H:17])([H:18])[H:19])[H:13],35.02830500002176
